US07923450B2
d) [3-Methoxy-4-(2-methyl-thiazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
A solution of [3-methoxy-4-(2-methyl-thiazol-5-yl)-phenyl]-thiourea (110 mg, 0.39 mmol) and 2-bromo-6-phenyl-cyclohexanone (105 mg, 0.41 mmol) in ethanol (4 ml) was heated to reflux over night. The precipitated solid was filtered off after cooling to room temperature and dried to yield the title compound (160 mg, 94%) as a yellow solid. MS ISP (m/e): 434.3 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.32 (br s, 1H, NH), 8.10 (s, 1H), 7.61 (s, 1H), 7.56 (d, 1H), 7.29 (t, 2H), 7.15-7.21 (m, 3H), 6.85 (d, 1H), 4.00 (m, 1H), 3.48 (s, 3H), 2.75 (m, 2H), 2.68 (s, 3H), 2.14 (m, 1H), 1.70-1.94 (m, 3H).

reactant | [3-methoxy-4-(2-methyl-thiazol-5-yl)-phenyl]-thiourea | 0.39 mmol, 110 mg | COC=1C=C(C=CC1C1=CN=C(S1)C)NC(=S)N | C12H13N3OS2
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.41 mmol, 105 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | [3-Methoxy-4-(2-methyl-thiazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | 160 mg, 94% | COC=1C=C(C=CC1C1=CN=C(S1)C)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C24H23N3OS2
